US04642308
To a solution of 2-chloro-7-phenoxycarbonylamino-1,8-naphthyridine (15 g) in anhydrous tetrahydrofuran (500 cc), anhydrous acetonitrile (500 cc) and 1,2,5,6-tetrahydropyridine (4.2 g) are added. The mixture is heated under reflux for 45 minutes. The solution is concentrated under reduced pressure (4 kPa) to a volume of 100 cc. After 2 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with acetonitrile (3×15 cc) and dried at 40° C. under reduced pressure (0.067 kPa). N-(7-Chloro-1,8-naphthyridin-2-yl)-1,2,5,6-tetrahydropyridine-1-carboxamide (10.5 g) is produced, m.p. 173° C.

reactant | 2-chloro-7-phenoxycarbonylamino-1,8-naphthyridine | 15 g | ClC1=NC2=NC(=CC=C2C=C1)NC(=O)OC1=CC=CC=C1 | C15H10ClN3O2
reactant | 1,2,5,6-tetrahydropyridine | 4.2 g | N1CC=CCC1 | C5H9N
solvent | tetrahydrofuran | 500 cc | O1CCCC1 | C4H8O
solvent | acetonitrile | 500 cc | C(C)#N | C2H3N
product | N-(7-Chloro-1,8-naphthyridin-2-yl)-1,2,5,6-tetrahydropyridine-1-carboxamide | 10.5 g | ClC1=CC=C2C=CC(=NC2=N1)NC(=O)N1CC=CCC1 | C14H13ClN4O
